US05919790
3-Benzyloxycarbonylamino-4-oxo-5-phenylacetylaminooxy-pentanoic acid, 1,1 dimethylethyl ester (208 mg, 0.365 mmol) was taken up in 3 mL of 1:1 trifluoroacetic acid (TFA)CH2Cl2 and allowed to stir for 2 hours. Reaction was diluted with acetonitrile (MeCN) (10 mL) and concentrated. The residue was stripped down from MeCN five times. Purification by chromatography (SiO2, 90:9:1 CH2Cl2 -acetone-formic acid) afforded 3-benzyloxycarbonylamino-4-oxo-5-phenylacetylaminooxy-pentanoic acid (51 mg, 34%) as a white foam.

reactant | 3-Benzyloxycarbonylamino-4-oxo-5-phenylacetylaminooxy-pentanoic acid, 1,1 dimethylethyl ester | 0.365 mmol, 208 mg | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)OC(C)(C)C)C(CONC(CC1=CC=CC=C1)=O)=O | C25H30N2O7
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-benzyloxycarbonylamino-4-oxo-5-phenylacetylaminooxy-pentanoic acid | 51 mg, 34% | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)O)C(CONC(CC1=CC=CC=C1)=O)=O | C21H22N2O7
